US05543539
Preparation of 4-(2-(trans-4-n-propyl-4-silacyclohexyl) ethyl)-4'-fluorotolane
20.0 ml (30.0 mmol) of a tetrahydrofuran solution of 1.5M p-fluorophenylethynyl magnesium chloride was dripped into a mixture of 3.50 g (10.8 mmol) of 4-(2-(p-bromophenyl) ethyl)-1-n-propyl-1-silacyclohexane, 80 mg of tetrakis (triphenylphosphine) palladium (0) and 20 ml of tetrahydrofuran. The reaction mixture was stirred for 8 hours at room temperature. After a conventional after treatment, purification was conducted by means of silica-gel column chromatography to obtain 2.87 g (yield 73%) of the target product.

reactant | p-fluorophenylethynyl magnesium chloride | 1.5M | FC1=CC=C(C=C1)C#C[Mg]Cl
reactant | 4-(2-(p-bromophenyl) ethyl)-1-n-propyl-1-silacyclohexane | 10.8 mmol, 3.50 g | BrC1=CC=C(C=C1)CCC1CC[SiH](CC1)CCC | C16H25BrSi
catalyst | tetrakis (triphenylphosphine) palladium (0) | 80 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30.0 mmol, 20.0 ml | O1CCCC1 | C4H8O
product | 4-(2-(trans-4-n-propyl-4-silacyclohexyl) ethyl)-4'-fluorotolane | 2.87 g, yield 73% | C(CC)[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C24H29FSi
